US08530491B2
f) 2,4-diamino-6-ethyl-5-(3-(2-(2-ethoxycarbonylethyl)phenoxy)propoxy)pyrimidine hydrochloride
To a suspension of 2,4-diamino-6-ethyl-5-(3-(2-(2-ethoxycarbonylethyl)phenoxy)propoxy)pyrimidine (0.3885 g, 1 mmol) in EtOH (1 mL) was added one equivalent of concentrated HCl. The titled compound was obtained, after trituration of the reaction mixture with diethyl ether, as a white crystalline solid (0.4037 g, 95%). 1H NMR (400 MHz, DMSO-d6): 1.10 (3H, t, J=7.8 Hz), 1.13 (3H, t, J=7.1 Hz), 2.22 (2H, m), 2.47-2.55 (m, 4H), 2.81 (2H, t, J=7.6 Hz), 3.89 (2H, t, J=6.2 Hz) 4.02 (2H, q, J=7.1 Hz), 4.15 (2H, t, J=5.8 Hz), 6.85 (1H, t, J=7.4 Hz), 6.99 (1H, d, J=8.1 Hz), 7.14 (1H, d, J=8.2 Hz), 7.18 (1H, t, J=7.5 Hz), 7.38 (2H, s), 7.85 (1H, bs), 8.14 (1H, s), 12.32 (1H, s).

reactant | 2,4-diamino-6-ethyl-5-(3-(2-(2-ethoxycarbonylethyl)phenoxy)propoxy)pyrimidine | 1 mmol, 0.3885 g | NC1=NC(=C(C(=N1)N)OCCCOC1=C(C=CC=C1)CCC(=O)OCC)CC | C20H28N4O4
reactant | HCl | one equivalent | Cl | ClH
solvent | EtOH | 1 mL | CCO | C2H6O
product | 2,4-diamino-6-ethyl-5-(3-(2-(2-ethoxycarbonylethyl)phenoxy)propoxy)pyrimidine hydrochloride | Cl.NC1=NC(=C(C(=N1)N)OCCCOC1=C(C=CC=C1)CCC(=O)OCC)CC | InChI=1S/C20H28N4O4.ClH/c1-3-15-18(19(21)24-20(22)23-15)28-13-7-12-27-16-9-6-5-8-14(16)10-11-17(25)26-4-2;/h5-6,8-9H,3-4,7,10-13H2,1-2H3,(H4,21,22,23,24);1H
